2170-03-27 06:57:00 Physician Resident Progress Note
Chief Complaint: 57 year old woman with history of Crohns disease on
   chronic steroids admitted with fever, altered mental status, and lactic
   acidosis.
   24 Hour Events:
 MULTI LUMEN - STOP [**2170-3-26**] 04:00 PM
 CALLED OUT
   - Repeat Hct 26.7 -> 7 point drop on admission, observed with repeat
   Hct overnight, and has remained stable in the 25-28 range
   - Discontinued concerta as pharmacy doesn't have.
   Allergies:
   Sulfonamides
   whelts over arm
   Morphine
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Diarrhea;
   Wellbutrin Sr (Oral) (Bupropion Hcl)
   anxiety;
   Simvastatin
   myalgias;
   Simvastatin
   myalgias;
   Last dose of Antibiotics:
   Ceftriaxone - [**2170-3-26**] 08:00 PM
   Vancomycin - [**2170-3-26**] 08:45 PM
   Acyclovir - [**2170-3-27**] 03:45 AM
   Ampicillin - [**2170-3-27**] 05:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Bifrontal headache improving, able to touch chin to
   chest
   Flowsheet Data as of  [**2170-3-27**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.2
   HR: 75 (69 - 117) bpm
   BP: 106/59(70) {95/43(55) - 123/75(86)} mmHg
   RR: 9 (9 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 13 (11 - 13)mmHg
   CO/CI (Fick): (8.6 L/min) / (4.3 L/min/m2)
   Mixed Venous O2% Sat: 69 - 69
   Total In:
                                                                  6,873 mL
                                                                    497 mL
   PO:
                                                                    700 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,873 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                    375 mL
   Urine:
                                                                  3,000 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,873 mL
                                                                    122 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   GEN: Pleasant middle aged female in NAD
   HEENT: NC/AT, PERRLA, EOMI
   CARDIAC: RRR, no murmurs
   LUNGS: CTAB
   NEURO: CN 2-12 in tact, 5/5 strength in all four extremities
   SKIN: diffuse macular rash on bilateral lower extremities unchanged
   Labs / Radiology
   193 K/uL
   8.4 g/dL
   175 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.3 mEq/L
   13 mg/dL
   106 mEq/L
   141 mEq/L
   25.4 %
   5.6 K/uL
        [image002.jpg]
   AG: 12
   Lactate: 3
   CSF cultures and HSV PCR pending
   Blood cultures from [**3-25**] with NGTD
                             [**2170-3-26**]  10:55 AM
                             [**2170-3-26**]  04:07 PM
                             [**2170-3-26**]  09:53 PM
                             [**2170-3-27**]  03:48 AM
   WBC
   7.4
   5.6
   Hct
   27.1
   26.7
   26.2
   25.4
   Plt
   207
   193
   Cr
   0.6
   0.6
   Glucose
   231
   175
   Other labs: Lactic Acid:3.0 mmol/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan\
   57 year old woman with history of Crohns disease on chronic steroids
   admitted with fever, altered mental status, and lactic acidosis.
   HCT drop: from admission dropped from 34 to 25-28 range.  She was
   dehydrated on admission, and has received large volume of IVF.  She is
   iron deficient based on labs.  This is likely a combination of
   underlying iron deficiency and dilution.
   -continue to monitor
   -consider iron as an outpatient
   Fever: leading concern would be for CNS infection although mental
   status now markedly improved and CSF underwhelming. Given underlying
   immune suppressed state would be at risk for HSV or listeria which
   could be more consistent with atypical infections. CXR, UA, and blood
   cultures unremarkable at this time.
   - f/u micro on CSF
   - f/u micro on blood and sputum
   - HSV PCR
   - empiric mengingoencephalitis dosing for now:
   vanc/ceftriaxone/ampicillin (confirmed ADR to penicillin as not c/w
   allergy)/acyclovir for 48 hours
   Altered Mental status: appears to be markedly improved compared to
   pre-admission eval. Neuro exam wnl
   - treat infections as above
   Lactic acidosis: not likely systemic hypoperfusing given normal to
   elevated blood pressure. no abdominal pain to suggest ischemic bowel.
   home use of metformin likely contributing.  Anion gap has closed, and
   lactate 3 today down from admission of 5
   - trend lactate
   - continue hydration
   Crohns: no current evidence of flare of abdominal symptoms.
   - continue home steroids at 15mg daily
   Neuropathy: continue home regimen. decrease fentanyl patch in setting
   of fever
   ICU Care
   Nutrition: regular diet
   Glycemic Control: Blood sugar well controlled
   Lines:
   Multi Lumen - [**2170-3-26**] 01:20 AM
   18 Gauge - [**2170-3-26**] 01:20 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2170-3-26**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2170-03-28 07:49:00 Physician Resident Progress Note
Chief Complaint: Fevers, lactic acidosis
   24 Hour Events:
 CALLED OUT
   -Metformin 500mg [**Hospital1 **] started
   -Antibiotics discontinued after 48hours
   -Transfusing two units for HCT drop
   Allergies:
   Sulfonamides
   whelts over arm
   Morphine
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Diarrhea;
   Wellbutrin Sr (Oral) (Bupropion Hcl)
   anxiety;
   Simvastatin
   myalgias;
   Simvastatin
   myalgias;
   Last dose of Antibiotics:
   Acyclovir - [**2170-3-27**] 08:15 PM
   Ceftriaxone - [**2170-3-27**] 08:30 PM
   Vancomycin - [**2170-3-27**] 09:00 PM
   Ampicillin - [**2170-3-28**] 03:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   ISS
   Metformin 500mg [**Hospital1 **]
   Fentanyl patch 200mcg q72H
   Clonazapam 0.25 TID prn
   Oxycodone prn
   Dilaudid prn
   Prednisone 15mg daily
   Calcium carbonate
   Pantoprazole
   Trazodone 200mg qhs
   Pravastatin 10
   Citalopram 40
   Gabapentin 600mg TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: No headaches or photophobia
   Gastrointestinal: Diarrhea
   Flowsheet Data as of  [**2170-3-28**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 82 (69 - 105) bpm
   BP: 138/76(90) {112/46(65) - 151/99(109)} mmHg
   RR: 14 (10 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,417 mL
                                                                    100 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                  1,577 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    450 mL
   Urine:
                                                                  1,665 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    752 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, Rash: Bilateral macular rash on LE
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   6.7 g/dL
   123 mg/dL
   0.8 mg/dL
   28 mEq/L
   2.9 mEq/L
   9 mg/dL
   104 mEq/L
   141 mEq/L
   21.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2170-3-26**]  10:55 AM
                             [**2170-3-26**]  04:07 PM
                             [**2170-3-26**]  09:53 PM
                             [**2170-3-27**]  03:48 AM
                             [**2170-3-28**]  03:50 AM
   WBC
   7.4
   5.6
   5.2
   Hct
   27.1
   26.7
   26.2
   25.4
   21.6
   Plt
   [**Telephone/Fax (3) 2465**]
   Cr
   0.6
   0.6
   0.8
   Glucose
   [**Telephone/Fax (3) 2466**]
   Other labs: PT / PTT / INR:13.7/27.2/1.2, Lactic Acid:3.0 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   57 year old woman with history of Crohns disease on chronic steroids
   admitted with fever, altered mental status, and lactic acidosis.
   # HCT drop: initially  from admission dropped from 34 to 25-28 range.
   She was dehydrated on admission, and has received large volume of IVF.
   She is iron deficient based on labs.  This is likely a combination of
   underlying iron deficiency and dilution.   Today  her HCT continues to
   trend down, now 21.
   -Will transfuse two units of pRBCs
   # Fever: CXR, UA, and blood + CSF cultures unremarkable at this time.
   -Antibiotics discontinued after 48 hours
   - f/u final micro on CSF, blood, and sputum and HSV PCR
   # Altered Mental status: appears to be markedly improved compared to
   pre-admission eval. Neuro exam wnl
   -continue to monitor
   # Crohns: no current evidence of flare of abdominal symptoms.
   - continue home steroids at 15mg daily
   # Neuropathy: continue home regimen gabapentin, fentanyl and oxycodone
   # Hyperlipidemia
   -continue home pravachol
   # Depression/anxiety
   -continue home citalopram, trazadone, clonazapam
   ICU Care
   Nutrition:
   Comments: Regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2170-3-26**] 07:00 PM
   20 Gauge - [**2170-3-27**] 02:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer: Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2170-03-28 10:17:00 Physician Attending Progress Note
Chief Complaint: lactic acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hct trended down to 21 but BP remained stable and no evidence of
   bleeding.
   Allergies:
   Sulfonamides
   whelts over arm
   Morphine
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Keflex (Oral) (Cephalexin Monohydrate)
   Diarrhea;
   Wellbutrin Sr (Oral) (Bupropion Hcl)
   anxiety;
   Simvastatin
   myalgias;
   Simvastatin
   myalgias;
   Last dose of Antibiotics:
   Acyclovir - [**2170-3-27**] 08:15 PM
   Ceftriaxone - [**2170-3-27**] 08:30 PM
   Vancomycin - [**2170-3-27**] 09:00 PM
   Ampicillin - [**2170-3-28**] 03:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: anemia, HA improved
   Flowsheet Data as of  [**2170-3-28**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 78 (69 - 105) bpm
   BP: 138/76(90) {122/46(65) - 151/99(109)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,417 mL
                                                                    300 mL
   PO:
                                                                    840 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,577 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    750 mL
   Urine:
                                                                  1,665 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    752 mL
                                                                   -450 mL
   Respiratory support
   SpO2: 96%
   Physical Examination
    Gen:  lying in bed, conversant,  NAD
   CV: RR
   Chest: CTA bilat
   Abd: soft Nt +BS
   Ext: 1+ edema
   Neuro: A and O, conversant, no photophobia
   Labs / Radiology
   6.7 g/dL
   194 K/uL
   123 mg/dL
   0.8 mg/dL
   28 mEq/L
   2.9 mEq/L
   9 mg/dL
   104 mEq/L
   141 mEq/L
   21.6 %
   5.2 K/uL
        [image002.jpg]
                             [**2170-3-26**]  10:55 AM
                             [**2170-3-26**]  04:07 PM
                             [**2170-3-26**]  09:53 PM
                             [**2170-3-27**]  03:48 AM
                             [**2170-3-28**]  03:50 AM
   WBC
   7.4
   5.6
   5.2
   Hct
   27.1
   26.7
   26.2
   25.4
   21.6
   Plt
   [**Telephone/Fax (3) 2465**]
   Cr
   0.6
   0.6
   0.8
   Glucose
   [**Telephone/Fax (3) 2466**]
   Other labs: PT / PTT / INR:13.7/27.2/1.2, Lactic Acid:3.0 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   57-year-old woman with headache, fever, photophobia.  Her initial
   presentation was quite concerning for meningoencephalitis.  However,
   her LP is quite reassuring with normal protein and no evidence for CSF
   pleocytosis.
   SIRS: etiology at this point appears most likely ot have been viral
   syndrome
   -          hypoperfusion has resolved clinically
   -          repeat lactate trending down
   -          checking nasal viral DFA
   -          continue ABX until CSF cx (-) for 48 hours
   -          continue acyclovir until CSF HSV PCR (-)
   Chronic steroid use
          Continue home dose for now
          If hypotension recurs
 stress dose steroids
   Crohn
          No acute intervention. No current evidence of flare
          Follow for bleeding and infection
 HCT drop but may be
   dilutional
 no BRBPR
   Anemia
               Check hemplysis labs
          Tx now
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2170-3-27**] 02:33 PM
   Prophylaxis:
   DVT: SC hep
   Stress ulcer: PPI
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes